US04897487
PREPARATION OF 4-HYDROXY-1-PHENYL-3-(1-PYRROLIDINYL)-1,8-NAPHTHYRIDIN-2-(1H)-ONE
To a solution of 1.5 g (6.5 mM) 2-anilinonicotinic acid, methylester, in dry xylenes at room temperature is added 0.69 g (14.54 M) of sodium hydride (NaH) (50 percent (%) oil emulsion) followed by addition of a small amount of N,N-dimethylformamide (DMF). The reaction mixture is heated to a temperature ranging between 85-95 degrees Centigrade (°C.) and 1.05 milliliters (mL) (6.5 mM) of ethyl-1-pyrrolidineacetate in xylene is slowly added over a period of 10 minutes. The reaction mixture is heated for 1 to 3 hours prior to the addition of aliquots of 0.32 g NaH followed by 1.05 mL of ethyl-1-pyrrolidineacetate as described above (total 3 aliquots). Following addition of the aliquots, the reaction mixture is cooled to 0° C., quenched with a slow addition of glacial acetic acid, and then water is added. The product is filtered and washed with water, acetone, methylene chloride, and acetone. The solid then obtained is dried in vacuo to give 1.20 g (60% yield) of title compound, a white solid.

reactant | sodium hydride | 14.54 M, 0.69 g | [H-].[Na+]
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
reactant | ethyl-1-pyrrolidineacetate | 6.5 mM, 1.05 milliliters | C(C)OC(CN1CCCC1)=O | C8H15NO2
reactant | NaH | 0.32 g | [H-].[Na+]
reactant | ethyl-1-pyrrolidineacetate | 1.05 mL | C(C)OC(CN1CCCC1)=O | C8H15NO2
reactant | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | 4-HYDROXY-1-PHENYL-3-(1-PYRROLIDINYL)-1,8-NAPHTHYRIDIN-2-(1H)-ONE | 1.20 g, 60% yield | OC1=C(C(N(C2=NC=CC=C12)C1=CC=CC=C1)=O)N1CCCC1 | C18H17N3O2
